US08486979B2
2-chloro-N′-hydroxyisonicotinimidamide
A solution of 2-chloroisonicotinonitrile (Aldrich, 0.73 g, 5.27 mmol), and hydroxylamine (Aldrich, 50 wt %, 0.348 g, 5.27 mmol) in methanol (10 mL) was heated to reflux and stirred for 1 hour. The volatiles were removed under reduced pressure to give the title compound. 1H NMR (300 MHz, DMSO-d6) δ 6.09 (s, 2 H), 7.67 (dd, J=5.4, 1.4 Hz, 1H), 7.73 (d, J=2.0 Hz, 1 H), 8.40 (d, J=5.2 Hz, 1 H), 10.22 (s, 1 H) ppm; MS (DCI/NH3) m/z 172 (M+H)+, 174 (M+H)+.

reactant | 2-chloroisonicotinonitrile | 5.27 mmol, 0.73 g | ClC=1C=C(C#N)C=CN1 | C6H3ClN2
reactant | hydroxylamine | 5.27 mmol, 0.348 g | NO | H3NO
solvent | methanol | 10 mL | CO | CH4O
product | 2-chloro-N′-hydroxyisonicotinimidamide | ClC=1C=C(C(N)=NO)C=CN1 | C6H6ClN3O
